US08389550B2
a) 5-Methyl-3-phenyl-isoxazole-4-carbaldehyde
To a solution of (5-methyl-3-phenyl-4-isoxazolyl)methanol (8.0 g, 42 mmol) in dichloromethane (1 L) was added manganese(IV) oxide (81.7 g, 0.85 mol) and the resulting mixture stirred vigorously for 7 days. The mixture was then filtered and the filtrate evaporated to afford the title compound (7.1 g, 89%) as a light yellow solid. MS: m/e=188.2 [M+H]+.

reactant | (5-methyl-3-phenyl-4-isoxazolyl)methanol | 42 mmol, 8.0 g | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
catalyst | manganese(IV) oxide | 0.85 mol, 81.7 g | [O-2].[Mn+4].[O-2]
product | 5-Methyl-3-phenyl-isoxazole-4-carbaldehyde | 7.1 g, 89% | CC1=C(C(=NO1)C1=CC=CC=C1)C=O | C11H9NO2
